US08252792B2
2-(5-Fluoro-1H-indol-4-yl)-4-morpholin-4-yl-6-piperazin-1-ylmethyl-thieno[3,2-d]pyrimidine
A solution of 5-fluoro-4-(trimethylstannyl)-1H-indole (100 mg, 0.33 mmol), 4-(2-methylsulfanyl-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-piperazine-1-carboxylic acid tert-butyl ester (71 mg, 0.15 mmol) and copper(I) bromide-dimethyl sulfide complex (70 mg, 0.33 mmol) in THF (3 mL) was degassed with argon, treated with tetrakis(triphenylphosphine)palladium(0) (10 mg, 0.008 mmol) and heated at 90° C. overnight. The reaction mixture was purified by column chromatography. The foregoing compound was treated with TFA-DCM (1:1, 2 mL), evaporated in vacuo and purified by ion-exchange chromatography (Isolute® SCX-2 cartridge, eluting with NH3 in methanol) and preparative TLC to give the title compound (6.5 mg, 10%).

reactant | 5-fluoro-4-(trimethylstannyl)-1H-indole | 0.33 mmol, 100 mg | FC=1C(=C2C=CNC2=CC1)[Sn](C)(C)C
reactant | 4-(2-methylsulfanyl-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.15 mmol, 71 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)SC | C21H31N5O3S2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.008 mmol, 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(5-Fluoro-1H-indol-4-yl)-4-morpholin-4-yl-6-piperazin-1-ylmethyl-thieno[3,2-d]pyrimidine | 6.5 mg, 10% | FC=1C(=C2C=CNC2=CC1)C=1N=C(C2=C(N1)C=C(S2)CN2CCNCC2)N2CCOCC2 | C23H25FN6OS
